### PR TITLE
refactor(FieldStrength): remove basis-representation lemmas

### PR DESCRIPTION
**Pull request by zhikaip**
Resolves the remaining TODO in `Electromagnetism/Kinematics/FieldStrength.lean`, following #1614.

## Changes

- Removed `toTensor_toFieldStrength_basis_repr`, `toFieldStrength_tensor_basis_eq_basis` and `toFieldStrength_eval_eq_basis_repr`, the lemmas about the Mathlib product basis `basis.tensorProduct basis` on `Vector d ⊗ Vector d`, together with the TODO. 
- What was general about them moves to the tensor library, for any `F : Vector d ⊗ Vector d` (`RealTensor/Vector/Tensorial.lean`): Lorentz.Vector.toField_eval_eval_eq_tensorProduct_repr` and `Lorentz.Vector.tensor_basis_repr_toTensor_prod_apply`.
- `toFieldStrength_antisymmetric`, `toFieldStrength_add` and `toFieldStrength_smul` are now derived from their `_eval` component versions through `toFieldStrength_tensor_basis_repr_eq_eval`, rather than the other way round. The `Tensor.basis` bridge lemmas from #1614 stay.
- golfed some proofs where appropriate

## Why

After #1614 these lemmas had a single consumer each inside `FieldStrength.lean`, and nothing
about them was specific to the field strength.

## Additional Effect of the series (#1610, #1611, #1614, this PR)

Two root causes fixed rather than worked around: `Lorentz.Vector`/`CoVector` are `implicit_reducible`, and the tensor action outranks the `Tensorial` transport action, so `rw`/`simp` match again where the `respectTransparency` option was compensating. One duplicate representation removed: field-strength components go through index evaluation only.

Counts against master before #1610: 
`set_option backward.isDefEq.respectTransparency false` 553 → 508 library-wide 
(Electromagnetism 21 → 11, Relativity/Tensors 107 → 72); 

the files touched by the series have none. The remaining 72 in the tensor library were checked with `scripts/rm_set_option.py` and are needed for unrelated reasons.

mostly prepared by claude, supervised and checked by myself

### CODE REVIEW

File: Physlib/Relativity/Tensors/RealTensor/Vector/Tensorial.lean [hunk 1]
```diff
@@ -125,6 +125,41 @@ lemma tensor_basis_repr_toTensor_apply {d : ℕ} (p : Vector d) (μ : ComponentI
...
+  simp only [Nat.reduceSucc, Nat.reduceAdd, Basis.repr_reindex, Finsupp.mapDomain_equiv_apply,
+    Equiv.symm_symm, Fin.isValue]
+  rw [tensor_basis_map_eq_basis_reindex]
+  have hb : (((basis (d := d)).reindex indexEquiv.symm).tensorProduct
+          (basis.reindex indexEquiv.symm)) =
+          ((basis (d := d)).tensorProduct (basis (d := d))).reindex
+          (indexEquiv.symm.prodCongr indexEquiv.symm) := by
+        ext b
+        match b with
+        | ⟨i, j⟩ =>
```
Comment (nateabr) [inline Physlib/Relativity/Tensors/RealTensor/Vector/Tensorial.lean]: `ext` supports pattern matching directly

```suggestion
   ext ⟨i, j⟩
```

**Review by nateabr — COMMENTED** [review]
Look good to me, one very minor comment

**Review by jstoobysmith — APPROVED** [review]
